US06852732B2
Synthesis of 8-(2,4-dichlorophenyl)-4-(4-carbamoyl-1,2,3,6-tetrahydropyridin-1-yl)-2-methyl-quinoline (Compound 1-01)
Under a nitrogen atmosphere, 8-bromo-2-methyl-4-(4-carbamoyl-1,2,3,6-tetrahydropyridin-1-yl)quinoline (4.7 g), 2,4-dichlorophenylboric acid (2.9 g) and sodium carbonate (4.5 g) were suspended in a mixed solvent of deaerated water (14 mL), toluene (7 mL) and ethanol (7 mL), followed by adding thereto tetrakis(triphenylphosphine)palladium (0.81 g), and the resulting mixture was heated under reflux for 5 hours. The reaction mixture was cooled to room temperature and stirred at room temperature for 3 hours. The solid precipitated was collected by filtration and washed with a water-ethanol (2:1) mixed solvent (30 mL) and then ethanol (30 mL) to obtain the title compound (4.7 g).

reactant | 8-bromo-2-methyl-4-(4-carbamoyl-1,2,3,6-tetrahydropyridin-1-yl)quinoline | 4.7 g | BrC=1C=CC=C2C(=CC(=NC12)C)N1CCC(=CC1)C(N)=O | C16H16BrN3O
reactant | 2,4-dichlorophenylboric acid | 2.9 g | ClC1=C(C=CC(=C1)Cl)OB(O)O | C6H5BCl2O3
reactant | sodium carbonate | 4.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 14 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.81 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 7 mL | C(C)O | C2H6O
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
product | 8-(2,4-dichlorophenyl)-4-(4-carbamoyl-1,2,3,6-tetrahydropyridin-1-yl)-2-methyl-quinoline | 4.7 g | ClC1=C(C=CC(=C1)Cl)C=1C=CC=C2C(=CC(=NC12)C)N1CCC(=CC1)C(N)=O | C22H19Cl2N3O
